US07943609B2
4-{[(11S)-5-Oxido-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-11-yl]methyl}phenyl acetate (3.08 g, 7.91 mmol) was dissolved in 100 mL of CH2Cl2 and treated with 10 mL of concentrated ammonium hydroxide solution. The mixture was stirred rapidly and then p-toluenesulfonyl chloride (1.51 g, 7.91 mmol) was carefully added. Rapid stirring continued for 1 hour. The reaction mixture was then treated with 20 mL of H2O and the layers were separated. The aqueous portion was extracted with CH2Cl2 (5×25 mL). The combined organic layers were washed with saturated NaHCO3 solution. Methanol was added to the organic layer to aid in solubility. The organic layer was dried over Na2SO4, filtered, and concentrated under reduced pressure to give a brown solid. Chromatography (SiO2, 20-40% CMA/CHCl3) gave a yellow solid. This material was dissolved in 100 mL 6 N aqueous HCl, and the solution was heated at 50° C. overnight. The reaction mixture was cooled and treated with concentrated ammonium hydroxide until pH=11 and then diluted with 200 mL H2O. The solution was extracted with 9:1 mixture of CH2Cl2/methanol (3×150 mL). The combined organic layers were washed sequentially with H2O and brine, dried over Na2SO4, filtered, and concentrated under reduced pressure to give a white solid. Crystallization from ethanol containing HCl gave 4-{[(11S)-6-amino-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-11-yl]methyl}phenol hydrochloride (0.47 g) as an off white solid, mp>240° C. (dec).

reactant | 4-{[(11S)-5-Oxido-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-11-yl]methyl}phenyl acetate | 7.91 mmol, 3.08 g | C(C)(=O)OC1=CC=C(C=C1)C[C@H]1COCC=2N1C1=C(C=[N+](C3=CC=CC=C13)[O-])N2 | C22H19N3O4
reactant | ammonium hydroxide | 10 mL | [OH-].[NH4+]
reactant | p-toluenesulfonyl chloride | 7.91 mmol, 1.51 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | HCl | 6 N, 100 mL | Cl | ClH
solvent | H2O | 200 mL | O | H2O
solvent | H2O | 20 mL | O | H2O
product | 4-{[(11S)-6-amino-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-11-yl]methyl}phenol hydrochloride | 0.47 g | Cl.NC1=NC2=CC=CC=C2C2=C1N=C1N2[C@H](COC1)CC1=CC=C(C=C1)O | InChI=1S/C20H18N4O2.ClH/c21-20-18-19(15-3-1-2-4-16(15)22-20)24-13(10-26-11-17(24)23-18)9-12-5-7-14(25)8-6-12;/h1-8,13,25H,9-11H2,(H2,21,22);1H/t13-;/m0./s1
